US05952382
(b) Synthesis of 4-[7-(1-adamantyl)-6-ethoxycarbonylpentyloxy-2-naphthyl]benzoic acid
1.5 g (2.58 mmol) of allyl 4-[7-(1-adamantyl)-6-ethoxycarbonylpentyloxy-2-naphthyl]benzoate, 50 ml of THF and 90 mg (0.08 mmol) of tetrakis(triphenylphosphine)palladium(0) were introduced into a three-necked flask under a stream of nitrogen. 1.13 ml (13 mmol) of morpholine were added dropwise and the reaction mixture was stirred at room temperature for two hours. The reaction mixture was evaporated to dryness, the residue was taken up in water, acidified to pH 1 with hydrochloric acid and extracted with ethyl ether and the organic phase was separated by settling, dried over magnesium sulfate and evaporated. The solid was triturated in heptane, filtered and dried. 1 g (72%) of the expected acid was collected, which acid had a melting point of 270°-1° C.

reactant | allyl 4-[7-(1-adamantyl)-6-ethoxycarbonylpentyloxy-2-naphthyl]benzoate | 2.58 mmol, 1.5 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OCC=C)C=C2)OCCCCCC(=O)OCC | C38H44O5
reactant | morpholine | 13 mmol, 1.13 ml | N1CCOCC1 | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.08 mmol, 90 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-[7-(1-adamantyl)-6-ethoxycarbonylpentyloxy-2-naphthyl]benzoic acid | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)O)C=C2)OCCCCCC(=O)OCC | C35H40O5
